US07498337B2
ethyl 2-chloro-5-(2-fluorophenyl)-1H-pyrrole-3-carboxylate
A mixture of ethyl 2-cyano-4-(2-fluorophenyl)-4-oxobutanoate (19.3 g) and 4 mol/L hydrogen chloride-ethyl acetate solution (100 mL) was stirred at room temperature for 18 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=10:1→3:1) to give the title compound as a brown solid (yield 8.76 g, 53%).

reactant | ethyl 2-cyano-4-(2-fluorophenyl)-4-oxobutanoate | 19.3 g | C(#N)C(C(=O)OCC)CC(=O)C1=C(C=CC=C1)F | C13H12FNO3
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 100 mL | C(C)(=O)OCC.Cl
product | ethyl 2-chloro-5-(2-fluorophenyl)-1H-pyrrole-3-carboxylate | yield 8.76 g, 53% | ClC=1NC(=CC1C(=O)OCC)C1=C(C=CC=C1)F | C13H11ClFNO2
